US07989457B2
Step B. 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid
Add sodium hydroxide (5.0N, 0.09 mL, 0.42 mmol) to 3-fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid methyl ester (0.04 g, 0.085 mmol) in methanol (2 mL). Add tetrahydro-furan (1 ml) and stir for four hours. Acidify with 1.0 N HCl and extract desired compound with ethyl acetate three times. Dry organic fractions with Na2SO4, filter and concentrate under reduced pressure to provide 0.035 g (90%) of title compound.

reactant | sodium hydroxide | 0.42 mmol, 5.0N, 0.09 mL | [OH-].[Na+]
reactant | 3-fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid methyl ester | 0.085 mmol, 0.04 g | COC(C1=CC(=C(C=C1)OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)F)=O | C27H27F4NO3
reactant | tetrahydro-furan | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid | 0.035 g, 90% | FC=1C=C(C(=O)O)C=CC1OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H25F4NO3
